US08957070B2
N-[2-(5-Methyl-1,3,4-thiadiazol-2-yl)-1H-indol-7-yl]thiophene-2-sulfonamide
A mixture of N-{2-[(2-acetylhydrazino)carbonyl]-1H-indol-7-yl}thiophene-2-sulfonamide (0.65 g), Lawesson's reagent (0.76 g) and tetrahydrofuran (30 mL) was stirred at 50° C. overnight. The resulting crystals were filtrated, washed with tetrahydrofuran, and dried to give the title compound (0.45 g, yield 71%) as colorless crystals. melting point 308-309° C.

reactant | N-{2-[(2-acetylhydrazino)carbonyl]-1H-indol-7-yl}thiophene-2-sulfonamide | 0.65 g | C(C)(=O)NNC(=O)C=1NC2=C(C=CC=C2C1)NS(=O)(=O)C=1SC=CC1 | C15H14N4O4S2
reactant | Lawesson's reagent | 0.76 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | N-[2-(5-Methyl-1,3,4-thiadiazol-2-yl)-1H-indol-7-yl]thiophene-2-sulfonamide | 0.45 g, yield 71% | CC1=NN=C(S1)C=1NC2=C(C=CC=C2C1)NS(=O)(=O)C=1SC=CC1 | C15H12N4O2S3
